US06900227B2
Preparation of 2,2-bis-(3,5-dichloro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester
This compound was prepared from bis-(3,5-dichlorophenyl)dichloromethane and ethyl 3,4-dihydroxybenzoate according to Example 269d; light red solid, m.p.: 89° C.;

reactant | bis-(3,5-dichlorophenyl)dichloromethane | ClC=1C=C(C=C(C1)Cl)C(Cl)(Cl)C1=CC(=CC(=C1)Cl)Cl | C13H6Cl6
reactant | ethyl 3,4-dihydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
product | 2,2-bis-(3,5-dichloro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(OC(O2)(C2=CC(=CC(=C2)Cl)Cl)C2=CC(=CC(=C2)Cl)Cl)C=C1 | C22H14Cl4O4
